### PR TITLE
Feat: Metadata in Lambda.LExpr

### PR DESCRIPTION
**Pull request by MikaelMayer**
* Added a new generic metadata field to every construct of `Lambda.LExpr`
* Replaced `LExprT` by `LExpr` whose metadata field is a pair of a metadata and the type.
* Replaced all type arguments of `LExpr` by a unique type structure named `T: LExprParamsT` everywhere
* `LExprParamsT` is a structured pair of an `LExprParams` and a type, so that `T.mono` uses `LMonoTy` as the type when `T: LExprParams`
* Renamed all environments using `Env` or `E` instead of `T`.
* Replaced `LExprT.fromLExpr` with `LExpr.resolve`
* Replaced `LExprT.toLExpr` with `LExpr.unresolved`. I'm using the passive form because the unresolved version is really easy to obtain from a resolved version.
* Update `Boogie` and `CSimp` so that they can use `Unit` for this metadata.
* Ensured that formatting instances are chosen by priority to `LExprT.format` and default otherwise to  LExpr.format`
* `Traceable` make it possible to combine metadata in a generic way, added an example in `LExprEval` when doing beta reduction on terms.

### Benefits

* Extensibility:
  * By combining all type parameters in ones, it makes it easier to add more type parameters
  * Since the metadata is generic, we can use it to store structured data whenever needed.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: StrataTest/DL/Lambda/LExprTTests.lean [hunk 1]
```diff
@@ -158,84 +163,84 @@ info: error: Type unit is not an instance of a previously registered type!
...
 
 /--
 info: ok: ((λ ((%0 : (arrow bool $__ty4)) ((fn : (arrow bool bool)) (#true : bool)) : bool)) : $__ty4)) : (arrow (arrow bool $__ty4) $__ty4))
 -/
 #guard_msgs in
-#eval do let ans ← LExprT.fromLExpr {LContext.default with functions := testIntFns} ((@TEnv.default Unit).updateContext { types := [[("fn", t[∀a. %a → %a])]] })
+#eval do let ans ← LExpr.resolve (T:=TestParams) {LContext.default with functions := testIntFns} ((@TEnv.default TestParams.IDMeta).updateContext { types := [[("fn", t[∀a. %a → %a])]] })
                              esM[(λ (%0 (fn #true)))]
-         return format ans.fst
+         return LExprT.format ans.fst
```
Comment (aqjune-aws) [inline StrataTest/DL/Lambda/LExprTTests.lean]: I think it will be better if this can still be `format ans.fst` instead of `LExprT.format` otherwise we cannot immediately use formatted string anymore, such as `dbg_trace !"The result is {ans.fst} and {some other value}"`. Would Kiro find a great solution for this?

File: Strata/DL/Lambda/LExprTypeSpec.lean [hunk 2]
```diff
@@ -60,58 +60,63 @@ def LTy.openFull (ty: LTy) (tys: List LMonoTy) : LMonoTy :=
...
+--  | tcons_intro : ∀ Γ C args targs,
+--                  args.length == targs.length →
+--                  ∀ et ∈ (List.zip args targs), HasType Γ et.fst et.snd →
+--                  HasType Γ (.app (.const C) args) (.tcons C targs)
+
+--  | tcons_elim :
+--                HasType Γ (.app (.const C) args) (.tcons C targs) →
+--                (h : i < targs.length) →
+--                HasType Γ (.proj i args) (List.get targs i h)
+
```
Comment (aqjune-aws) [inline Strata/DL/Lambda/LExprTypeSpec.lean]: Should the introduced lines above be removed?

File: StrataTest/DL/Lambda/TypeFactoryTests.lean [hunk 3]
```diff
@@ -17,8 +17,16 @@ namespace Lambda
...
 
-private def absMulti' (n: Nat) (body: LExpr LMonoTy IDMeta) : LExpr LMonoTy IDMeta :=
-  List.foldr (fun _ e => .abs .none e) body (List.range n)
+abbrev TestParams : LExprParams := ⟨Unit, Unit⟩
+
+instance : Coe String TestParams.Identifier where
+  coe s := Identifier.mk s ()
+
+instance : Traceable EvalProvenance TestParams.Metadata where
+  combine _ := ()
```
Comment (aqjune-aws) [inline StrataTest/DL/Lambda/TypeFactoryTests.lean]: Since `Metadata` are `Unit` in many places and many people will just set it to Unit for their testing as well (as this PR did), I think having
```
instance : Traceable EvalProvenance Unit where
  combine _ := ()
```
at say LExprEval.lean will be really useful. This will also remove boilerplates like this.

File: Strata/DL/Lambda/LExpr.lean [hunk 4]
```diff
@@ -24,6 +24,55 @@ inductive QuantifierKind
...
+Traceable class for combining multiple metadata with labeled provenance.
+
+Takes a list of (reason, metadata) pairs and combines them into a single metadata.
+Each pair describes why that metadata is being included in the combination.
+
+Usage:
+  Traceable.combine [("function", fnMeta), ("argument", argMeta), ("context", ctxMeta)]
+-/
+class Traceable (Reason: Type) (Metadata : Type) where
+  combine : List (Reason × Metadata) → Metadata
```
Comment (aqjune-aws) [inline Strata/DL/Lambda/LExpr.lean:37]: If I understood correctly, currently `Reason` is always instantiated with `EvalProvenance`. What about only having the `Metadata` type variable input of `Traceable`, so that it becomes:
```
class Traceable (Metadata : Type) where
  combine : List (EvalProvenance × Metadata) → Metadata
```
? This will help lessen burden of beginners to LExpr.

File: StrataTest/DL/Lambda/LExprTTests.lean (hunk 1 above)
Comment (MikaelMayer) [reply StrataTest/DL/Lambda/LExprTTests.lean]: Kiro found a great solution. I'm going to commit it shortly
```
instance (priority := high) {T : LExprParamsT} [ToFormat T.base.IDMeta] : ToFormat (LExprT T) where
  format := LExprT.format

-- More specific instance that matches when the metadata is explicitly Typed
instance (priority := high) {M : Type} {IDMeta : Type} [ToFormat IDMeta] : ToFormat (LExpr ⟨⟨Typed M, IDMeta⟩, LMonoTy⟩) where
  format e := LExprT.format (T := ⟨⟨M, IDMeta⟩, LMonoTy⟩) e
```

File: Strata/DL/Lambda/LExpr.lean (hunk 4 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean:37]: Currently, `Reason` is always instantiated with `EvalProvenance`, but I architected it this way because I see other reasons for other metadata to be combined, including Refinement, Inlining, Replacement, analyses phases, abstractions phases, etc. With the spirit of Strata having  type parameters for when it's not specific, I believe we should stick that way. If you feel stronger to remove this type parameter, I can still do the change.

File: Strata/DL/Lambda/Scopes.lean [hunk 5]
```diff
@@ -69,77 +69,81 @@ def Scope.merge (cond : (LExpr LMonoTy IDMeta)) (m1 m2 : (Scope IDMeta)) : (Scop
...
 
+private abbrev TestParams : LExprParams := ⟨Unit, Unit⟩
+
+private instance : Coe String TestParams.Identifier where
+  coe s := Identifier.mk s ()
+
 /--
-info: (x : int) → #8
-(z : int) → (if #true then #100 else (z : int))
+info: (x, (some int, #8)) (z, (some int, (if #true then #100 else (z : int))))
```
Comment (aqjune-aws) [inline Strata/DL/Lambda/Scopes.lean]: I think this formatting has to be fixed so that it keeps the original one.. I think the ToFormat in line 49 is not being chosen. Will the solution used for `ToFormat (LExprT ...)` work here as well?

File: Strata/DL/Lambda/LExpr.lean [hunk 6]
```diff
@@ -49,66 +98,313 @@ user-allowed type annotations (optional), and `Identifier` for allowed
...
+        contradiction
+
+    | quant m1 k1 ty1 tr1 e1' ih1 ih2 =>
+      cases e2 with
+      | quant m2 k2 ty2 tr2 e2' =>
+        unfold beq at h
+        simp only [Bool.and_eq_true] at h
+        rcases h with ⟨⟨⟨⟨h1, h2⟩, h3⟩, h4⟩, h5⟩
+        simp only [beq_iff_eq] at h1 h2 h3
+        have h4' := ih1 tr2 h4  -- Pass tr2 as argument
```
Comment (joscoh) [inline Strata/DL/Lambda/LExpr.lean]: Are these comments necessary?

File: Strata/DL/Lambda/LExpr.lean [hunk 7]
```diff
@@ -49,66 +98,313 @@ user-allowed type annotations (optional), and `Identifier` for allowed
...
+        simp only [] at h
+        contradiction
+
+
+  · -- Completeness: e1 = e2 → beq = true
+    intro h
+    rw [h]
+    -- Prove that beq is reflexive
+    induction e2 generalizing e1 with
+    | const m c =>
```
Comment (joscoh) [inline Strata/DL/Lambda/LExpr.lean]: Alternative proof of completeness that is much shorter and which avoids non-terminal `simp`:
`intros h; rw[h]; induction e2 generalizing e1 <;> simp only [LExpr.beq] <;> grind`

File: Strata/DL/Lambda/LExpr.lean [hunk 8]
```diff
@@ -49,66 +98,313 @@ user-allowed type annotations (optional), and `Identifier` for allowed
...
+
+-- Now use this theorem in DecidableEq
+instance {T: LExprParamsT} [DecidableEq T.base.Metadata] [DecidableEq T.TypeType] [DecidableEq T.base.IDMeta] : DecidableEq (LExpr T) :=
+  fun e1 e2 =>
+    if h : LExpr.beq e1 e2 then
+      isTrue (LExpr.beq_eq e1 e2 |>.mp h)
+    else
+      isFalse (fun heq => h (LExpr.beq_eq e1 e2 |>.mpr heq))
+
+instance {T: LExprParamsT} [DecidableEq T.base.Metadata] [DecidableEq T.TypeType] [DecidableEq T.base.IDMeta] : DecidableEq (LExpr T) :=
```
Comment (joscoh) [inline Strata/DL/Lambda/LExpr.lean]: Unless I am mistaken, this is duplicated.

File: Strata/DL/Lambda/LExpr.lean [hunk 9]
```diff
@@ -148,182 +444,210 @@ def LConst.tyNameFormat (c: LConst) : Format :=
...
+def eraseMetadata {T : LExprParamsT} (e : LExpr T) : LExpr ⟨⟨Unit, T.base.IDMeta⟩, T.TypeType⟩ := LExpr.replaceMetadata e (λ_ =>())
 
 /--
 Compute the size of `e` as a tree.
 
 Not optimized for execution efficiency, but can be used for termination
 arguments.
 -/
-def size (e : (LExpr TypeType IDMeta)) : Nat :=
+def size (T : LExprParamsT) (e : LExpr T) : Nat :=
```
Comment (joscoh) [inline Strata/DL/Lambda/LExpr.lean:459]: I realize this was the case before too, but why do we need this and `sizeOf`?

File: Strata/DL/Lambda/LExprEval.lean [hunk 10]
```diff
@@ -19,32 +19,36 @@ open Std (ToFormat Format format)
 
 namespace LExpr
 
-variable {IDMeta : Type} [DecidableEq IDMeta]
+variable {T : LExprParamsT} {TBase : LExprParams} [BEq T.base.Metadata] [BEq T.base.IDMeta] [BEq T.TypeType] [DecidableEq T.base.Metadata] [DecidableEq TBase.IDMeta] [ToFormat T.base.Metadata]
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprEval.lean]: Probably don't want both `[BEq]` and `[DecidableEq]` for the same type. `DecidableEq` is sufficient.

File: Strata/DL/Lambda/LExprEval.lean [hunk 11]
```diff
@@ -106,8 +105,8 @@ expressions, along with supporting dynamically-typed languages.
 Currently evaluator only supports LExpr with LMonoTy because LFuncs registered
 at Factory must have LMonoTy.
 -/
-def eval (n : Nat) (σ : (LState IDMeta)) (e : (LExpr LMonoTy IDMeta))
-    : (LExpr LMonoTy IDMeta) :=
+partial def eval (n : Nat) (σ : LState TBase) (e : (LExpr TBase.mono))
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprEval.lean:110]: Why is this partial? It still uses fuel, right?

File: Strata/DL/Lambda/LExprT.lean [hunk 12]
```diff
@@ -21,170 +21,139 @@ namespace Lambda
...
+  | .op m o _ => .op m.underlying o (some m.type)
+  | .bvar m b => .bvar m.underlying b
+  | .fvar m f _ => .fvar m.underlying f (some m.type)
+  | .app m e1 e2 =>
+    .app m.underlying e1.unresolved e2.unresolved
+  | .abs ⟨underlying, .arrow aty _⟩ _ e =>
+    .abs underlying (some aty) e.unresolved
+  | .abs m t e => .abs m.underlying t e.unresolved
+  -- Since quantifiers are bools, the type stored in their
+  -- metadata is the type of the argument
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprT.lean:81]: Follow up to question below, I thought that the argument type was stored in the `ty` field. Why is it the metadata field here unlike the others (e.g. `eq` which also always has type `bool`, or `.abs`, which stores an arrow type). Probably outside the scope of this PR, but things seem a bit inconsistent here, and it seems easy to get something wrong.

File: Strata/DL/Lambda/LExprT.lean [hunk 13]
```diff
@@ -21,170 +21,139 @@ namespace Lambda
...
-      .fvar x ty
-  | .bvar _ => e
-  | .abs ty e => .abs ty (e.applySubst S)
-  | .quant qk ty tr e => .quant qk ty (tr.applySubst S) (e.applySubst S)
-  | .app e1 e2 => .app (e1.applySubst S) (e2.applySubst S)
-  | .ite c t f => .ite (c.applySubst S) (t.applySubst S) (f.applySubst S)
-  | .eq e1 e2 => .eq (e1.applySubst S) (e2.applySubst S)
-  | .mdata m e => .mdata m (e.applySubst S)
+abbrev LExprT (T : LExprParamsT) :=
+  LExpr (LExprParamsT.typed T)
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprT.lean:27]: IIUC, here we have types in the metadata as well as with the `option LMonoTy` stored in `.op`, `.fvar`, `.abs`, `.quant`. I don't understand when one should be used over another, and why we need this redundancy (e.g. two different type substitution functions).

File: Strata/DL/Lambda/LExprT.lean [hunk 14]
```diff
@@ -21,170 +21,139 @@ namespace Lambda
...
-    .ite c t f ty
-  | .eq e1 e2 ty =>
-    let e1 := LExprT.applySubst e1 S
-    let e2 := LExprT.applySubst e2 S
-    let ty := LMonoTy.subst S ty
-    .eq e1 e2 ty
-  | .mdata m e =>
-    let e := LExprT.applySubst e S
-    .mdata m e
+def applySubst {T : LExprParams} (e : LExpr T.mono) (S : Subst) : LExpr T.mono :=
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprT.lean]: Still a bit confused, previously `applySubst` modified the type that `toLMonoTy` returns, but now this is not the case. Does this matter?

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 15]
```diff
@@ -631,6 +629,7 @@ open LTy.Syntax in
 #eval LMonoTy.aliasDef? mty[myAlias int bool]
                     ( (@TEnv.default String).updateContext
                       { aliases := [{
+
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean]: Should delete

File: Strata/DL/Lambda/LExprTypeEnv.lean [hunk 16]
```diff
@@ -713,6 +712,7 @@ open LTy.Syntax in
                                         typeArgs := ["x", "y"],
                                         name := "FooAlias",
                                         type := mty[bool]}]} )
+
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeEnv.lean]: should delete

File: Strata/DL/Lambda/LExprTypeSpec.lean [hunk 17]
```diff
@@ -60,58 +60,52 @@ def LTy.openFull (ty: LTy) (tys: List LMonoTy) : LMonoTy :=
...
 Typing relation for `LExpr`s.
 -/
-inductive HasType {IDMeta : Type} [DecidableEq IDMeta] (C: LContext IDMeta):
-  (TContext IDMeta) → (LExpr LMonoTy IDMeta) → LTy → Prop where
-  | tmdata : ∀ Γ info e ty, HasType C Γ e ty →
-                            HasType C Γ (.mdata info e) ty
-
-  | tbool_const : ∀ Γ b,
+inductive HasType {T: LExprParams} [DecidableEq T.IDMeta] (C: LContext T):
+  (TContext T.IDMeta) → LExpr T.mono → LTy → Prop where
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprTypeSpec.lean:64]: I feel like this might be a problem actually. Since `LExpr` is the same as `LExprT`, these typing rules also apply to the new `LExprT`. But they completely ignore the metadata annotations. So `.boolConst ((), .int) true` is typed as `.bool` (and typechecked that way too). The bigger problem is e.g. `.ite`, which is no longer consistent with the typechecker. These typing rules say that an `.ite` can have a type under any given metadata, while the typechecker ensures that the resulting metadata is consistent with the type of the expression. I'm not sure how to resolve this actually, but it does represent a divergence between the typing rules and typechecker.

File: Strata/DL/Lambda/LExprWF.lean [hunk 18]
```diff
@@ -146,47 +122,43 @@ with `(.fvar x)`.
...
+  | .fvar m y (yty: Option GenericTy) => if x.fst == y && (yty == x.snd) then
+                      (.bvar m k) else (.fvar m y yty)
+  | .abs m ty e' => .abs m ty (varClose (k + 1) x e')
+  | .quant m qk ty tr' e' => .quant m qk ty (varClose (k + 1) x tr') (varClose (k + 1) x e')
+  | .app m e1 e2 => .app m (varClose k x e1) (varClose k x e2)
+  | .ite m c t e => .ite m (varClose k x c) (varClose k x t) (varClose k x e)
+  | .eq m e1 e2 => .eq m (varClose k x e1) (varClose k x e2)
+
+
+theorem varClose_of_varOpen [BEq T.IDMeta] [ReflBEq T.IDMeta] [LawfulBEq T.IDMeta] [BEq T.Metadata] [ReflBEq T.Metadata] [BEq GenericTy] [ReflBEq GenericTy] [LawfulBEq GenericTy]  (h : fresh x e) :
```
Comment (joscoh) [inline Strata/DL/Lambda/LExprWF.lean]: I could be wrong, but I think `LawfulBEq` subsumes `ReflBEq`.

File: Strata/DL/Lambda/LTy.lean [hunk 19]
```diff
@@ -200,6 +200,8 @@ theorem LMonoTy.BEq_refl : LMonoTy.BEq ty ty := by
     simp_all [LMonoTy.BEq.go]
   done
 
+
+
```
Comment (joscoh) [inline Strata/DL/Lambda/LTy.lean]: Should delete

File: Strata/DL/Lambda/LExpr.lean (hunk 6 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean]: I should be more circumspect about AI authored proofs, thanks

File: Strata/DL/Lambda/LExpr.lean (hunk 7 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean]: I tried inlining but it said simp made no progress. Could you push your changes so that I can see what you mean?

File: Strata/DL/Lambda/LExpr.lean (hunk 8 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean]: You're right, I must have missed it during probably a merge.

File: Strata/DL/Lambda/LExpr.lean (hunk 9 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean:459]: For termination proofs, such as normalization of old expressions (`termination_by sizeOf e`)

File: Strata/DL/Lambda/LExprEval.lean (hunk 10 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExprEval.lean]: I added these variables in the order that Lean asked them, but now I understand why I can get rid of BEq if I have DecidableEq.

File: Strata/DL/Lambda/LExpr.lean (hunk 4 above)
Comment (atomb) [reply Strata/DL/Lambda/LExpr.lean:37]: My 2 cents is that I like having it as a parameter. We could fix it to one type later if we find the parameter to be too awkward, but given that you've implemented this PR this way already it's probably not prohibitively hard to deal with.

File: Strata/DL/Lambda/LExpr.lean [hunk 20]
```diff
@@ -49,66 +98,313 @@ user-allowed type annotations (optional), and `Identifier` for allowed
 identifiers. For a fully annotated AST, see `LExprT` that is created after the
 type inference transform.
 -/
-inductive LExpr (TypeType : Type) (IDMeta : Type) : Type where
-  /-- `.const c`: constants (in the sense of literals).-/
-  | const   (c: LConst)
+inductive LExpr (T : LExprParamsT) : Type where
+  /-- `.const c ty`: constants (in the sense of literals). -/
+  | const   (m: T.base.Metadata) (c: LConst)
```
Comment (atomb) [inline Strata/DL/Lambda/LExpr.lean:103]: I sort of like that `Imperative` has metadata as the last parameter, rather than the first, allowing it to be given a default value. But I'm not 100% sure that having a default value is a good thing, as it allows us to ignore metadata a lot of the time.

File: Strata/DL/Lambda/LExpr.lean [hunk 21]
```diff
@@ -49,66 +98,313 @@ user-allowed type annotations (optional), and `Identifier` for allowed
...
+    | _ => false
+  | .eq m1 e1a e1b, e2 =>
+    match e2 with
+    | .eq m2 e2a e2b => m1 == m2 && LExpr.beq e1a e2a && LExpr.beq e1b e2b
+    | _ => false
+
+instance [BEq T.base.Metadata] [BEq T.TypeType] [BEq (Identifier T.base.IDMeta)] : BEq (LExpr T) where
+  beq := LExpr.beq
+
+-- First, prove that beq is sound and complete
```
Comment (atomb) [inline Strata/DL/Lambda/LExpr.lean:193]: Wow. It's unfortunate that this proof is so large. But it's probably worth it, for such a central type.

File: Strata/DL/Lambda/LExprT.lean [hunk 22]
```diff
@@ -21,170 +21,139 @@ namespace Lambda
...
-  | .eq e1 e2 => .eq (e1.applySubst S) (e2.applySubst S)
-  | .mdata m e => .mdata m (e.applySubst S)
+abbrev LExprT (T : LExprParamsT) :=
+  LExpr (LExprParamsT.typed T)
 
-/--
-Monotype-annotated Lambda expressions, obtained after a type inference transform
-from Lambda expressions `LExpr`.
--/
-inductive LExprT (IDMeta : Type): Type where
```
Comment (atomb) [inline Strata/DL/Lambda/LExprT.lean:56]: Yay!

File: Strata/Languages/Boogie/OldExpressions.lean [hunk 23]
```diff
@@ -52,43 +50,53 @@ are only left with `old(var)` expressions:
    can be replaced by the value of `var` immediately before `Q`'s call.
 -/
 
+inductive OldProvenance: Type where
+  | AutoOldWrapping
+
```
Comment (atomb) [inline Strata/Languages/Boogie/OldExpressions.lean]: It doesn't seem like this is used anywhere.

File: Strata/DL/Lambda/LExprT.lean (hunk 13 above)
Comment (atomb) [reply Strata/DL/Lambda/LExprT.lean:27]: I had the same question. :)

File: Strata/DL/Lambda/LExprTypeSpec.lean (hunk 17 above)
Comment (atomb) [reply Strata/DL/Lambda/LExprTypeSpec.lean:64]: This is a good point, and I'd like to have a clearer understanding before we merge.

File: Strata/DL/Lambda/LExpr.lean (hunk 9 above)
Comment (joscoh) [reply Strata/DL/Lambda/LExpr.lean:459]: All termination proofs present in Strata use `sizeOf`, not `size`. I confirmed that we can delete `LExpr.size` and everything still builds. Not sure if we need for this PR or not.

File: Strata/DL/Lambda/LExpr.lean (hunk 7 above)
Comment (joscoh) [reply Strata/DL/Lambda/LExpr.lean]: Pushed

File: Strata/DL/Lambda/LExprEval.lean (hunk 11 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExprEval.lean:110]: No it's because there is a kernel bug that is has been solved in 4.25 but still present in 4.24
I'm adding a comment to explain that
```
TODO: Once we are on Lean 4.25 or more, we ought to be able to remove the "partial" because this fix should have been merged https://github.com/leanprover/lean4/issues/10353
```

File: Strata/DL/Lambda/LExprT.lean (hunk 13 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExprT.lean:27]: Good question. The type bundled with the metadata is the resolved type, whereas the `Option LMonoTy` is the user-provided type. The first one should be preferred if available, since it's possible that the second one could contain placeholders or holes in the future. There are two replacements functions because one works on user-provided types (and should typically not be used for metadata-stored types) and the other one works on types after resolution.

File: Strata/DL/Lambda/LExprT.lean (hunk 12 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExprT.lean:81]: Yes I agree, and it was the case before in `LExprT` where the field `ty` of a quantifier is not `bool` but the type of the inferred variable. To fix this inconsistency, I think we should decouple quantifiers from abstractions, that way there is a place to store the resolution type of the bound variable.

File: Strata/DL/Lambda/LExprTypeSpec.lean (hunk 17 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExprTypeSpec.lean:64]: `LExprT` is a `LExpr` but not the other way round. `.boolConst ((), .int) true` is typed as `.bool` but this is also the case for everything else you would put instead of `.int`, it would just be a metadata. `LExprT` distinguishes the metadata into a pair and interprets the RHS as the type of the expression. Hence, the constant above would resolve to  `.boolConst (((), int), bool) true`. Since the metadata type is generic at the beginning, the only issue that would arise would be if we build a `LExpr (Metadata:=(Something, LMonoTy))` and then we cast it to `LExprT` somewhere in the pipeline, right?

Althought this is possible, if we have execution semantics of `LExpr (Metadata:=(Something, LMonoTy))` that will normally ignore the metadata, we won't be able to prove the casted expression satisfies the type-checking property, which is that type-checked expressions are never stuck in small step semantics. So any soundness theorem will catch such a wrong cast and prevent it.

File: Strata/DL/Lambda/LExpr.lean (hunk 9 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean:459]: Oh I did not see you were talking about size, not sizeOf. Indeed in that case it can be deleted. Happy to approve such a PR.

File: Strata/DL/Lambda/LExpr.lean (hunk 20 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean:103]: Yes I think that's a good analysis. I wanted to make sure we know exactly where the metadata is, so that when we will change its type, we will have to fix the value provided, or search for "default", which is not possible if the parameter has a default value. Also, it makes it possible to not require it to have a default value.

Also for presentation purposes, it might be more like a rationalization than a true justification, but I like it when similar fields are aligned, and putting the metadata first makes it possible.

File: Strata/DL/Lambda/LExpr.lean (hunk 21 above)
Comment (MikaelMayer) [reply Strata/DL/Lambda/LExpr.lean:193]: Perhaps @joscoh  has an idea on how to simplify the proof?

File: Strata/Languages/Boogie/OldExpressions.lean (hunk 23 above)
Comment (MikaelMayer) [reply Strata/Languages/Boogie/OldExpressions.lean]: Indeed, I ended up not using it. Thanks for spotting it.

File: Strata/DL/Lambda/LExpr.lean (hunk 21 above)
Comment (joscoh) [reply Strata/DL/Lambda/LExpr.lean:193]: Pushed a simplification. `grind` is very powerful. For some reason Lean is giving me deprecation errors in unrelated files though.

File: Strata/DL/Lambda/LExprTypeSpec.lean (hunk 17 above)
Comment (joscoh) [reply Strata/DL/Lambda/LExprTypeSpec.lean:64]: Thanks for the explanation. 2 thoughts:
1. I am not concerned about the soundness of the type system, which I agree should be the same regardless of the metadata. What this does impact is the completeness of the typechecker: there are terms that are well-typed that the typechecker could now fail on (since the whole point is that `LExpr` and `LExprT` can be unified). Whether that is a problem or not is an open question.
2. I am now somewhat confused, I thought that with the metadata annotations, it would allow users to annotate their expressions with a type in the metadata. I was going to use this capability for bounded ints, where one could specify a function body to have e.g. `Nat` type, which produces a proof obligation that the body is nonnegative. From what you are saying, it sounds like even if the user gives a type annotation as metadata `((), T)`, this will be ignored, and the typechecker produces a term with metadata `(((), T), T')` for inferred type `T'`. Is this the case?

**Review by aqjune-aws — APPROVED** [review]
